US04230635
N-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]-N'-ethylsulfamide
To 5.18 g (20 mmole) 4-(hexafluoro-2-hydroxy-2-propyl)aniline and 3.44 g (24 mmole) N-ethylsulfamoyl chloride in 30 ml CHCl3, add 2.18 g (24 mmole) Et3N in 20 ml CHCl3 and stir for 16 hours. Dilute with CHCl3 and wash with 1N HCl. Dry, concentrate and recrystallize from Et2O-hexane to yield the product; m.p. 178°-179° C.

reactant | 4-(hexafluoro-2-hydroxy-2-propyl)aniline | 20 mmole, 5.18 g | FC(C(C(F)(F)F)(O)C1=CC=C(N)C=C1)(F)F | C9H7F6NO
reactant | N-ethylsulfamoyl chloride | 24 mmole, 3.44 g | C(C)NS(=O)(=O)Cl | C2H6ClNO2S
reactant | Et3N | 24 mmole, 2.18 g | CCN(CC)CC | C6H15N
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(hexafluoro-2-hydroxy-2-propyl)phenyl]-N'-ethylsulfamide | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)NS(=O)(=O)NCC)(F)F | C11H12F6N2O3S
